US08912186B2
By a procedure similar to that of 1.133, starting from 3-(4-chlorophenyl)glutaric anhydride and 5-chloroanthranilamide, 3-(4-chlorophenyl)-4-(6-chloro-4-hydroxy-2-quinazolinyl)butanoic acid was obtained as colourless solid.

reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | 5-chloroanthranilamide | ClC1=CC=C(C(C(=O)N)=C1)N | C7H7ClN2O
product | 3-(4-chlorophenyl)-4-(6-chloro-4-hydroxy-2-quinazolinyl)butanoic acid | ClC1=CC=C(C=C1)C(CC(=O)O)CC1=NC2=CC=C(C=C2C(=N1)O)Cl | C18H14Cl2N2O3
